US07304062B2
1-[4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]butyryl]-2-phenylmethyl-4-(propyl)semicarbazide
2-{4-[3-(1-Phenylmethyl-5-oxo-4-propyl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)-propyl]-phenoxy}-2-methylpropionic acid ethyl ester 1-[4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]butyryl]-2-phenylmethyl-4-(propyl)semicarbazide (1.26 g, 2.61 mmol) was dissolved in ethyl acetate (15 mL). Camphorsulfonic acid (670 mg, 2.88 mmol) was added in one portion and the solution was heated to reflux for 1 h. The solution was cooled to rt and washed with sat'd aq. NaHCO3(2×10 mL) followed by 1N HCl (2×10 mL). The organic phase was dried (MgSO4) and concentrated to a clear, colorless oil. The material was purified by plug silica gel filtration (gradient dichloromethane to ethyl acetate) to afford the title compound as a clear, colorless oil (0.86 g, 71%). 1H NMR (DMSO-d6) □ 7.30 (t, 3H, J=7 Hz), 7.24 (d, 1H, J=7 Hz), 7.20 (d, 2H, J=7 Hz ), 7.04 (d, 2H, J=8 Hz), 6.69 (d, 2H, J=8 Hz), 4.13 (q, 2H, J=7 Hz), 3.47 (t, 2H, J=7 Hz), 2.55 (t, 2H, J=7 Hz), 2.48 (t, 2H, J=7 Hz), 1.83 (quint, 2H, J=7 Hz), 1.52, (m, 2H), 1.47 (s, 6H), 1.14 (t, 3H, J=7 Hz), 0.79 (t, 3H, J=7 Hz); 13C NMR (DMSO-d6) □ 174.0, 154.1, 153.8, 146.9, 138.1, 135.6, 129.8, 129.1, 128.0, 119.6, 79.3, 61.6, 48.5, 42.8, 34.0, 27.8, 25.7, 24.8, 22.5, 14.5, 11.5; IR (CHCl13) 2878, 1692, 1509, 1143 cm−1; Anal. Calcd. For C27H35N304: C, 69.65; H, 7.58; N, 9.03. Found: C, 69.28; H, 7.96; N, 8.84.

reactant | 2-{4-[3-(1-Phenylmethyl-5-oxo-4-propyl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)-propyl]-phenoxy}-2-methylpropionic acid ethyl ester 1-[4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]butyryl]-2-phenylmethyl-4-(propyl)semicarbazide | 2.61 mmol, 1.26 g | C(C)OC(=O)C(C)(OC1=CC=C(C=C1)CCCC(=O)NN(C(=O)NCCC)CC1=CC=CC=C1)C.C(C)OC(C(C)(C)OC1=CC=C(C=C1)CCCC1=NN(C(N1CCC)=O)CC1=CC=CC=C1)=O
reactant | Camphorsulfonic acid | 2.88 mmol, 670 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 1-[4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]butyryl]-2-phenylmethyl-4-(propyl)semicarbazide | C(C)OC(=O)C(C)(OC1=CC=C(C=C1)CCCC(=O)NN(C(=O)NCCC)CC1=CC=CC=C1)C | C27H37N3O5
